US04614813
Using the procedure of Example I, propionaldehyde oxime in carbon tetrachloride is brominated with bromine introduced at -5° to 0° C. To the resulting solution of 1-bromo-propionaldehyde oxime is added dropwise with stirring a suspension of sodium phenoxide in carbon tetrachloride. The reaction is allowed to go to completion and any residual sodium phenoxide is neutralized with hydrogen bromide gas. The precipitated sodium bromide is collected by filtration, and the filtrate concentrated under reduced pressure to provide the desired α-phenoxy propionaldehyde oxime.

reactant | propionaldehyde oxime | C(CC)=NO | C3H7NO
reactant | bromine | BrBr | Br2
reactant | 1-bromo-propionaldehyde oxime | BrC(CC)=NO | C3H6BrNO
reactant | sodium phenoxide | [O-]C1=CC=CC=C1.[Na+]
reactant | hydrogen bromide | Br | BrH
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | α-phenoxy propionaldehyde oxime | O(C1=CC=CC=C1)C(C=NO)C | C9H11NO2
